US08349824B2
The product was prepared in the same manner as described in example 43 using 1-methyl-5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (60 mg, 162 μmol) and 2-oxa-6-azaspiro[3.3]heptane hemioxalate (69.9 mg, 242 μmol) as starting materials. The reaction affords 2-methyl-4-(2-oxa-6-aza-spiro[3.3]heptane-6-carbonyl)-2H-pyrazole-3-carboxylic acid (2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide (16.7 mg, 22.8%) as white solid. mp: >300° C., MS: m/z=453.0 (M+H+).

reactant | 1-methyl-5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 162 μmol, 60 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)N2CCOCC2)=O)C(=O)O | C16H17N7O4
reactant | 2-oxa-6-azaspiro[3.3]heptane hemioxalate | 242 μmol, 69.9 mg | C(C(=O)O)(=O)O.C1OCC12CNC2.C2OCC21CNC1
product | 2-methyl-4-(2-oxa-6-aza-spiro[3.3]heptane-6-carbonyl)-2H-pyrazole-3-carboxylic acid (2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide | 16.7 mg, 22.8% | N1(CCOCC1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CC3(COC3)C2)C)=N1 | C21H24N8O4
